US07332485B2
1-Formyl-4,4-Dimethyl-Cyclohexanecarboxylic Acid Methyl Ester
To a solution of dimethyl 4,4-dimethyl-cyclohexane-1,1-dicarboxylate (5.23 g, 22.9 mmol) in diethyl ether (250 mL) at −78° C. under a nitrogen atmosphere was added diisobutylaluminum hydride (1.5M in toluene, 30.6 mL, 45.9 mmol) dropwise. After 2.5 h, the reaction mixture was quenched with a mixture of methanol (75 mL) and water (75 mL). The mixture was filtered through Celite@ and the aqueous phase was extracted with diethyl ether (100 mL×5), was dried (MgSO4) and was evaporated in vacuo to yield the title compound which was used without further purification. MH+199.

reactant | dimethyl 4,4-dimethyl-cyclohexane-1,1-dicarboxylate | 22.9 mmol, 5.23 g | CC1(CCC(CC1)(C(=O)OC)C(=O)OC)C | C12H20O4
reactant | diisobutylaluminum hydride | 45.9 mmol, 1.5M, 30.6 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | diethyl ether | 250 mL | C(C)OCC | C4H10O
product | 1-Formyl-4,4-Dimethyl-Cyclohexanecarboxylic Acid Methyl Ester | COC(=O)C1(CCC(CC1)(C)C)C=O | C11H18O3
